US04933458
To a dispersion of 1.51 g of 2-mercaptoimidazo[4,5-b]pyridine in 25 ml of ethanol was added at once 1.92 g of 2-(methylamino)benzyl chloride hydrochloride at room temperature under stirring. The resulting mixture was further stirred for 3.5 hours. The precipitated crystals were collected by filtration and washed with ethanol. The obtained crystals were added portionwise to a mixture of 100 ml of chloroform and 100 ml of 1N NaOH solution for neutralization. The aqueous NaOH phase was separated, and to this phase were successively added 200 ml of chloroform and a saturated ammonium chloride solution until the aqueous phase showed no turbidity upon addition of the solution. The chloroform phase was separated, washed with a saturated aqueous sodium chloride solution, and dried over sodium sulfate. The solvent was then distilled off under reduced pressure and the residue was crystallized by addition of diethyl ether. The crystalline product was collected by filtration and dried to give 1.84 g (yield: 68.1%) of 2-[2-(methylamino)benzylthio]imidazo[4,5-b]pyridine as a white crystalline powder.

reactant | 2-mercaptoimidazo[4,5-b]pyridine | 1.51 g | SC=1NC=2C(=NC=CC2)N1 | C6H5N3S
reactant | 2-(methylamino)benzyl chloride hydrochloride | 1.92 g | Cl.CNC1=C(CCl)C=CC=C1
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-[2-(methylamino)benzylthio]imidazo[4,5-b]pyridine | 1.84 g, yield: 68.1% | CNC1=C(CSC=2NC=3C(=NC=CC3)N2)C=CC=C1 | C14H14N4S
